USRE039128E1
Step 2. 4- Aminomethylquinuclidine
4- Cyanoquinuclidine (0.31 g, 0.0028 moles) was reduced with lithium aluminium hydride (0.45 g, 0.012 moles) in tetrahydrofuran (20 ml) at ambient temperature for 18 hours. Diethyl ether (20 mls) was added followed by water (1.8 ml) and 10%w/v aqueous sodium hydroxide (0.68 ml) and the mixture stirred for 30 minutes. The mixture was then filtered and the filtrate concentrated in vacuo to give the title compound 0.3 g (94%).

reactant | 4- Cyanoquinuclidine | 0.0028 moles, 0.31 g | C(#N)C12CCN(CC1)CC2 | C8H12N2
reactant | lithium aluminium hydride | 0.012 moles, 0.45 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Diethyl ether | 20 mls | C(C)OCC | C4H10O
reactant | sodium hydroxide | 0.68 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 1.8 ml | O | H2O
product | 4- Aminomethylquinuclidine | 0.3 g, 94% | NCC12CCN(CC1)CC2 | C8H16N2
